US04666962
Methyl-3-[N,N-dibenzylaminoxy]propanoate
A solution of 42.6 g of N,N-dibenzylhydroxylamine, 25.8 g of methyl acrylate and 2.0 g of potassium-tert-butoxide in 200 ml of tetrahydrofuran is heated under reflux for 12 hours under N2. The crude reaction mixture is concentrated under reduced pressure and the residue is partitioned between water and ether. The orcanic layer is washed with water, saturated NaHSO4 solution and brine, dried (MgSO4) and then evaporated under reduced pressure to give the title compound as an oil.

reactant | N,N-dibenzylhydroxylamine | 42.6 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | methyl acrylate | 25.8 g | C(C=C)(=O)OC | C4H6O2
reactant | potassium-tert-butoxide | 2.0 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Methyl-3-[N,N-dibenzylaminoxy]propanoate | COC(CCON(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H21NO3
